US09388189B2
1-(4-Isopropyl piperazin-1-yl)hex-5-yn-1-one
1-Isopropylpiperazine (228 mg, 1.78 mmol) was added over a mixture of hex-5-ynoic acid (200 mg, 1.78 mmol), N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (393 mg, 2.05 mmol) and N,N-dimethylpyridin-4-amine (10 mg, 0.05 mmol) in dichloromethane (10 ml) at 0° C. and the resulting mixture was stirred at room temperature overnight. 100 ml of dichloromethane were added and washed with sodium bicarbonate 4%. Then a solution of hydrogen chloride 0.5 N was added to the organic phase. The aquose phase was separated and neutralised with a solution of NaOH 2N and treated with ethyl acetate. The ethyl acetate phase was washed with water and brine, dried over magnesium sulphate and the solvent removed to give 152 mg (34% yield) of the title compound. Purity 90%.

reactant | 1-Isopropylpiperazine | 1.78 mmol, 228 mg | C(C)(C)N1CCNCC1 | C7H16N2
reactant | hex-5-ynoic acid | 1.78 mmol, 200 mg | C(CCCC#C)(=O)O | C6H8O2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.05 mmol, 393 mg | Cl.CN(CCCN=C=NCC)C
catalyst | N,N-dimethylpyridin-4-amine | 0.05 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-Isopropyl piperazin-1-yl)hex-5-yn-1-one | 152 mg, 34% yield | C(C)(C)N1CCN(CC1)C(CCCC#C)=O | C13H22N2O
